US06518267B1
d) Benzyl Methoxy-carbonylbenzofuran-2-carboxylate
To a solution of the benzyl 5-carboxybenzofuran-2-carboxylate(0.8 g, 2.7 mmol) in Et2O (3 mL) was added a solution of diazomethane in Et2O (8.1 mmol) After stirring at RT for 45 min, argon was bubbled through the solution for 10 minutes. Then, the solution was concentrated in vacuo and was used in the next reaction without further purification (0.144 g, 45%): 1H NMR:

reactant | benzyl 5-carboxybenzofuran-2-carboxylate | 2.7 mmol, 0.8 g | C(=O)(O)C=1C=CC2=C(C=C(O2)C(=O)OCC2=CC=CC=C2)C1 | C17H12O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | Et2O | 3 mL | CCOCC | C4H10O
solvent | Et2O | 8.1 mmol | CCOCC | C4H10O
product | Benzyl Methoxy-carbonylbenzofuran-2-carboxylate | COC(=O)C1=C(OC2=C1C=CC=C2)C(=O)OCC2=CC=CC=C2 | C18H14O5
